US07138491B2
The preparation of H-Gly-Arg-Pro-Ala-Lys-OH (2) (SEQ ID NO: 19)
The solution of 300 mg (0.289 mmol) of Boc-Gly-Arg(Tos)-Pro-Ala-Lys(ClZ)OBzl (SEQ ID NO: 14), 1 ml of anisole and 2 ml of HF was stirred at 0° C. for 2 h. The reaction mixture was evaporated under reduced pressure to remove HF. To the residue 2 ml of HF were added and the solution was stirred at 0° C. for another 1 h. The reaction mixture was evaporated under reduced pressure to remove HF. The residue was triturated with ether and the resulted solid was purified on the Sephadex G-10 column. The collected fractions were lyophilized to provide 109 mg (80%) of the title compound. Mp. 168–170° C., FAB-MS (m/e) 528[M+H]+.

reactant | Boc-Gly-Arg(Tos)-Pro-Ala-Lys(ClZ)OBzl | 0.289 mmol, 300 mg | N(CC(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC2=C(Cl)C=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C49H66ClN9O12S
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
product | H-Gly-Arg-Pro-Ala-Lys-OH | 109 mg, 80% | NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCN)C(=O)O)CCC1 | C22H41N9O6
